US08372837B2
To a mixture of dimethyl 3-oxopentanedioate (3.48 g, 20 mmol) in ethanol (12 mL) and water (40 mL) at room temperature was added sodium acetate (12.0 g, 146 mmol), and was followed by addition of 4-(methylsulfonyl)benzenediazonium solution (20 mmol). The resulting reaction mixture was stirred at room temperature for 1 h. The product was collected by filtration, then washed with water (˜50 mL) and dried overnight under reduce pressure to yield 7.0 g (83%) of (E)-dimethyl 2-(2-(4-(methylsulfonyl)phenyl)hydrazono)-3-oxopentanedioate as a yellow solid. MS (ESI) 357 (M+H).

reactant | dimethyl 3-oxopentanedioate | 20 mmol, 3.48 g | O=C(CC(=O)OC)CC(=O)OC | C7H10O5
reactant | sodium acetate | 146 mmol, 12.0 g | C(C)(=O)[O-].[Na+]
reactant | 4-(methylsulfonyl)benzenediazonium | 20 mmol | CS(=O)(=O)C1=CC=C(C=C1)[N+]#N
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | water | 40 mL | O | H2O
product | (E)-dimethyl 2-(2-(4-(methylsulfonyl)phenyl)hydrazono)-3-oxopentanedioate | 7.0 g, 83% | CS(=O)(=O)C1=CC=C(C=C1)N\N=C(\C(=O)OC)/C(CC(=O)OC)=O | C14H16N2O7S
